US05498626
(R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylmethyl)-5-dibenzylamino-1H-indole
To a stirred solution of (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole (1.50 g, 2.75 mmol) in anhydrous tetrahydrofuran (30 mL) was added lithium borohydride (0.24 g, 11.0 mmol, 4.0 eq) as a solid. The resulting reaction mixture was heated at reflux for 4 hours. A saturated solution of sodium hydrogen carbonate (10 mL) was then added, and this mixture was stirred at room temperature for 30 minutes. This aqueous mixture was then extracted with ethyl acetate (3×25 mL), and the organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure. Column chromatography of the residue using silica gel (approximately 50 g) and elution with ethyl acetate/hexanes [1:3] afforded the title compound (1.02 g, 70%) as a white foam: FAB LRMS (m/z, relative intensity) 530 (MH+, 87), 529 (M+, 100), 439 (10), 409 (10), 325 (32), 235 (20).

reactant | (R)-3-(N-benzyloxycarbonylpyrrolidin-2-ylcarbonyl)-5-dibenzylamino-1H-indole | 2.75 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C35H33N3O3
reactant | lithium borohydride | 11.0 mmol, 0.24 g, 4.0 eq | [BH4-].[Li+]
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (R)-3-(N-Benzyloxycarbonylpyrrolidin-2-ylmethyl)-5-dibenzylamino-1H-indole | 1.02 g, 70% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C35H35N3O2
